US07557114B2
(c) rac-5-(Tetrahydro-pyran-3-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
Prepared in analogy to Example A49(b) from 5-(5,6-dihydro-4H-pyran-3-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester and ammonium formate. Light yellow oil. MS (m/e): 248.1 ([M+H−Me2C═CH2]+, 100%).

reactant | 5-(5,6-dihydro-4H-pyran-3-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)C1=COCCC1 | C18H23NO3
reactant | ammonium formate | C(=O)[O-].[NH4+]
product | rac-5-(Tetrahydro-pyran-3-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)C1COCCC1 | C18H25NO3
